US05234917
N-[{2-n-Butyl-1-(2-chlorophenyl)-methyl-4-chloro-1H-imidazol-5-yl}methylcarbonyl]phenylalanine
The title compound is prepared following the procedure of Example 1-(iii-iv) using phenylalanine methyl ester hydrochloride in place of glycine methyl ester hydrochloride and using 2-[n-butyl-1-(2-chlorophenyl)-methyl-4-chloro-1H-imidazol-5-yl]acetic acid (prepared as in U.S. Pat. No. 4,340,598) in place of 1-(2-chlorophenyl)methyl-2 propylthio-1H-imidazole-5-carboxylic acid.

reactant | phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 2-[n-butyl-1-(2-chlorophenyl)-methyl-4-chloro-1H-imidazol-5-yl]acetic acid | C(CCC)C1(N(C(=C(N1)Cl)CC(=O)O)C1=C(C=CC=C1)Cl)C | C16H20Cl2N2O2
reactant | 1-(2-chlorophenyl)methyl-2 propylthio-1H-imidazole-5-carboxylic acid | ClC1=C(C=CC=C1)CN1C(=NC=C1C(=O)O)SCCC | C14H15ClN2O2S
product | N-[{2-n-Butyl-1-(2-chlorophenyl)-methyl-4-chloro-1H-imidazol-5-yl}methylcarbonyl]phenylalanine | C(CCC)C1(N(C(=C(N1)Cl)CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C1=C(C=CC=C1)Cl)C | C25H29Cl2N3O3
